US06919343B2
A mixture of 5-(2-fluoro-6-iodophenyl)-1H-tetrazole (23.48 g, 80.97 mmol), potassium carbonate (16.79 g, 0.121 mol), and iodomethane (16.09 g, 0.113 mol) in 25 mL DMF was stirred at room temperature for 3 hours. The mixture was partitioned between ethyl acetate and water, and the organic extract was washed with water and brine, dried over Na2SO4, filtered and concentrated under vacuum. The residue was subjected to silica gel chromatography eluted with 0-10% ethyl acetate in hexanes to provide 5-(2-fluoro-6-iodophenyl)-2-methyl-2H-tetrazole that gave proton NMR spectra consistent with theory and a mass ion (ES+) of 305.06 for M+H+.

reactant | 5-(2-fluoro-6-iodophenyl)-1H-tetrazole | 80.97 mmol, 23.48 g | FC1=C(C(=CC=C1)I)C1=NN=NN1 | C7H4FIN4
reactant | potassium carbonate | 0.121 mol, 16.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.113 mol, 16.09 g | IC | CH3I
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 5-(2-fluoro-6-iodophenyl)-2-methyl-2H-tetrazole | FC1=C(C(=CC=C1)I)C=1N=NN(N1)C | C8H6FIN4
